### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Sites): the Mayer-Vietoris long exact sequence in sheaf cohomology

### PR DESCRIPTION
**Pull request by joelriou**
In this PR, we obtain the long exact Mayer-Vietoris sequence in sheaf cohomology `... ⟶ H^n₀(S.X₄, F) ⟶ H^n₀(S.X₂, F) ⊞ H^n₀(S.X₃, F) ⟶ H^n₀(S.X₁, F) ⟶ H^n₁(S.X₄, F) ⟶ ...` when `n₀ + 1 = n₁`. It is attached to any "Mayer-Vietoris square", which includes the typical case of a covering by two open subsets in a topological space. (This API shall also apply to the case of Nisnevich distinguished squares of schemes.)

--- 

This PR continues the work from #15099.

Original PR: https://github.com/leanprover-community/mathlib4/pull/15099

### CODE REVIEW

File: Mathlib/Algebra/Category/Grp/Biproducts.lean [hunk 1]
```diff
@@ -71,6 +71,15 @@ theorem biprodIsoProd_inv_comp_snd (G H : AddCommGrpCat.{u}) :
...
   IsLimit.conePointUniqueUpToIso_inv_comp _ _ (Discrete.mk WalkingPair.right)
 
+@[elementwise]
+lemma biprodIsoProd_inv_comp_desc {G H K : AddCommGrpCat.{u}} (f : G ⟶ K) (g : H ⟶ K) :
+    (biprodIsoProd G H).inv ≫ biprod.desc f g =
+      ofHom (AddMonoidHom.fst G H) ≫ f + ofHom (AddMonoidHom.snd G H) ≫ g := by
+  rw [← biprodIsoProd_inv_comp_fst, ← biprodIsoProd_inv_comp_snd, Category.assoc,
+    Category.assoc, ← Preadditive.comp_add]
+  congr 1
+  apply biprod.hom_ext' <;> simp
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/Grp/Biproducts.lean]:
```suggestion
  simp [biprod.desc_eq, ← biprodIsoProd_inv_comp_fst, ← biprodIsoProd_inv_comp_snd]
```

File: Mathlib/CategoryTheory/Sites/SheafCohomology/MayerVietoris.lean [hunk 2]
```diff
@@ -0,0 +1,150 @@
...
+/-!
+# The Mayer-Vietoris exact sequence in sheaf cohomology
+
+Let `C` be a category equipped with a Grothendieck topology `J`.
+Let `S : J.MayerVietorisSquare` be a Mayer-Vietoris square for `J`.
+Let `F` be an abelian sheaf on `(C, J)`.
+
+In this file, we obtain a long exact Mayer-Vietoris sequence:
+
+`... ⟶ H^n₀(S.X₄, F) ⟶ H^n₀(S.X₂, F) ⊞ H^n₀(S.X₃, F) ⟶ H^n₀(S.X₁, F) ⟶ H^n₁(S.X₄, F) ⟶ ...`
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/MayerVietoris.lean]: You should say here that `n₁ = n₀ + 1` (since this is a docstring, maybe even use `n` for `n₀` and `n+1` for `n₁`)

**Review by dagurtomas — COMMENTED** [review]
Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
